US07495014B2
4-Bromo-2-nitro-6-pyrimidin-2-yl-pheylamine:
A suspension of N-(4-bromo-2-nitro-6-pyrimidin-2-yl-phenyl)-2,2-dimethyl-propionamide (29.9 grams, 78.8 mmoles) in conc. HCl (200 mL) was refluxed for 8 hours. The partially homogeneous crude reaction was then cooled to room temperature, diluted with water (500 mL), and the resulting precipitate was stirred for 1 hour. The solids were then filtered, washed with water, and vacuum dried at 50° C. to afford the title compound (21.1 grams, 91% yield) as an orange powder.

reactant | N-(4-bromo-2-nitro-6-pyrimidin-2-yl-phenyl)-2,2-dimethyl-propionamide | 78.8 mmoles, 29.9 grams | BrC1=CC(=C(C(=C1)C1=NC=CC=N1)NC(C(C)(C)C)=O)[N+](=O)[O-] | C15H15BrN4O3
solvent | HCl | 200 mL | Cl | ClH
solvent | water | 500 mL | O | H2O
product | 4-Bromo-2-nitro-6-pyrimidin-2-yl-pheylamine | 21.1 grams, 91% yield | BrC1=CC(=C(C(=C1)C1=NC=CC=N1)N)[N+](=O)[O-] | C10H7BrN4O2
